US08030499B2
Step 34-3: Synthesis of 5-chloro-3-hydroxy-3-(2-naphthyl)-1,3-dihydro-2H-indol-2-one
With 11.10 g of 2-bromonaphthalene and 5.00 g of 5-chloroisatin as starting materials, 7.81 g of the title compound (yellow solid) was obtained by a similar method to Step 21-1.

reactant | 2-bromonaphthalene | 11.10 g | BrC1=CC2=CC=CC=C2C=C1 | C10H7Br
reactant | 5-chloroisatin | 5.00 g | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
product | 5-chloro-3-hydroxy-3-(2-naphthyl)-1,3-dihydro-2H-indol-2-one | 7.81 g | ClC=1C=C2C(C(NC2=CC1)=O)(C1=CC2=CC=CC=C2C=C1)O | C18H12ClNO2
